US04943580
A mixture of 27 parts of ethyl hexahydro-4-[[1-[2-(2-pyrimidinyloxy)ethyl]-1H-benzimidazol-2-yl]amino]-1H-azepine-1-carboxylate, 160 parts of 1-butanol, 28 parts of potassium hydroxide and 2 parts of water was stirred overnight at reflux temperature. The reaction mixture was diluted with water and the whole was extracted with 1-butanol. The extract was dried, filtered and evaporated. The residue was taken up in water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was converted into the (E)-2-butenedioate salt in ethanol. The salt was filtered off and dried, yielding 9.77 parts (38.5%) of 2-[(hexahydro-1H-azepin-4-yl)amino]-1H-benzimidazole-1-ethanol (E)-2-butenedioate(1:2); mp. 176.1° C. (compound 35).

reactant | ethyl hexahydro-4-[[1-[2-(2-pyrimidinyloxy)ethyl]-1H-benzimidazol-2-yl]amino]-1H-azepine-1-carboxylate | N1=C(N=CC=C1)OCCN1C(=NC2=C1C=CC=C2)NC2CCN(CCC2)C(=O)OCC | C22H28N6O3
reactant | 1-butanol | C(CCC)O | C4H10O
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
product | 2-[(hexahydro-1H-azepin-4-yl)amino]-1H-benzimidazole-1-ethanol (E)-2-butenedioate | 38.5% | C(\C=C\C(=O)O)(=O)O.N1CCC(CCC1)NC1=NC2=C(N1CCO)C=CC=C2 | InChI=1S/C15H22N4O.C4H4O4/c20-11-10-19-14-6-2-1-5-13(14)18-15(19)17-12-4-3-8-16-9-7-12;5-3(6)1-2-4(7)8/h1-2,5-6,12,16,20H,3-4,7-11H2,(H,17,18);1-2H,(H,5,6)(H,7,8)/b;2-1+
